US08835428B2
(S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid methyl ester
To a solution of freshly cleaned sodium pieces (0.043 g; 1.86 matom) in dry MeOH (30 ml) was added (S)-2-({3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbothioyl}-amino)3-methyl-butyric acid methyl ester (0.9 g; 1.86 mmol) under stirring followed by iodomethane (0.23 ml; 3.72 mmol). The stirring was continued for 2 hours at room temperature. Hydroxylamine hydrochloride (0.284 g; 4.09 mmol) was added to this solution followed by NaHCO3 (0.343 g; 4.09 mmol) and the resulting reaction mixture was refluxed for 3 hours. The solid thus obtained was filtered, dried and purified by flash chromatography over silica gel with 5% MeOH in chloroform to obtain 0.61 g (68%) of the title compound. Mass (ES−): 482 (M−1); IR (KBr): 3384, 3196, 2963, 1737, 1642, 1611, 1546 (br), 1462 (br); 1H NMR (DMSO-d6) δ: 0.89, 0.94 (2×d, 6H), 2.08 (m, 1H), 3.65 (s, 3H), 3.99 (m, 1H), 5.85 (d, 1H), 7.20 (m, 1H), 7.29 (s, 1H), 7.66 (m, 1H), 7.79 (m, 1H), 7.93 (s, 4H), 10.78 (s, 1H); 10.85 (s, 1H).

reactant | sodium | [Na] | Na
reactant | (S)-2-({3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbothioyl}-amino)3-methyl-butyric acid methyl ester | 1.86 mmol, 0.9 g | COC([C@H](C(C)C)NC(=S)C1=CC(=NO1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)=O | C23H21FN4O3S2
reactant | iodomethane | 3.72 mmol, 0.23 ml | IC | CH3I
reactant | Hydroxylamine hydrochloride | 4.09 mmol, 0.284 g | Cl.NO
reactant | NaHCO3 | 4.09 mmol, 0.343 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | (S)-2-({3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-N-hydroxy-isoxazole-5-carboximidoyl}-amino)-3-methyl-butyric acid methyl ester | 0.61 g, 68% | COC([C@H](C(C)C)NC(=NO)C1=CC(=NO1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)=O | C23H22FN5O4S
